### PR TITLE
[Merged by Bors] - feat: interaction between ContinuousLinearMap.coprod and ContinuousLinearEquiv.prodComm

### PR DESCRIPTION
**Pull request by igorkhavkine**
`ContinuousLinearMap.coprod_comp_prodComm` shows that pre-composition of a coproduct with prodComm swaps the terms in the coproduct. A dependency of #25304.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 1]
```diff
@@ -1082,6 +1082,19 @@ alias ring_inverse_eq_map_inverse := ringInverse_eq_inverse
...
   exact Ring.inverse_one _
 
+/-- Composition of a map on a product with the exchange of the product factors. -/
+theorem coprod_comp_prodComm
+  (R : Type*) [Semiring R]
+  (M₁ : Type*) [TopologicalSpace M₁] [AddCommMonoid M₁] [Module R M₁]
+  (M₂ : Type*) [TopologicalSpace M₂] [AddCommMonoid M₂] [Module R M₂]
+  (M : Type*) [TopologicalSpace M] [AddCommMonoid M] [Module R M] [ContinuousAdd M]
+  (f : M₁ →L[R] M) (g : M₂ →L[R] M) :
+    (f.coprod g) ∘L (ContinuousLinearEquiv.prodComm R M₂ M₁) = (g.coprod f) := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
    f.coprod g ∘L .prodComm R M₂ M₁ = g.coprod f := by
```

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 2]
```diff
@@ -1082,6 +1082,19 @@ alias ring_inverse_eq_map_inverse := ringInverse_eq_inverse
...
+  ext; all_goals
+  simp only [coe_comp', ContinuousLinearEquiv.coe_coe, Function.comp_apply, inl_apply, inr_apply,
+    ContinuousLinearEquiv.prodComm_apply, Prod.swap_prod_mk, coprod_apply, map_zero,
+    zero_add, add_zero, coprod_comp_inl, coprod_comp_inr]
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: You should not squeeze terminal simps unless performance is really bad

Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
  ext <;>
    simp only [coe_comp', ContinuousLinearEquiv.coe_coe, Function.comp_apply, inl_apply, inr_apply,
      ContinuousLinearEquiv.prodComm_apply, Prod.swap_prod_mk, coprod_apply, map_zero,
     zero_add, add_zero, coprod_comp_inl, coprod_comp_inr]
```

Comment (igorkhavkine) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: Hmm, I'm not sure I understand. I was following the advice [here](https://leanprover-community.github.io/extras/simp.html#non-terminal-simps). What is the recommended style for this case? Maybe pointing me to an example would be enough, if it's not clearly documented somewhere.

Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: Ah! Can you raise on Zulip that https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls is misplaced?

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 3]
```diff
@@ -1082,6 +1082,19 @@ alias ring_inverse_eq_map_inverse := ringInverse_eq_inverse
...
+/-- Composition of a map on a product with the exchange of the product factors. -/
+theorem coprod_comp_prodComm
+  (R : Type*) [Semiring R]
+  (M₁ : Type*) [TopologicalSpace M₁] [AddCommMonoid M₁] [Module R M₁]
+  (M₂ : Type*) [TopologicalSpace M₂] [AddCommMonoid M₂] [Module R M₂]
+  (M : Type*) [TopologicalSpace M] [AddCommMonoid M] [Module R M] [ContinuousAdd M]
+  (f : M₁ →L[R] M) (g : M₂ →L[R] M) :
+    f.coprod g ∘L .prodComm R M₂ M₁ = g.coprod f := by
+  ext <;>
+    simp only [coe_comp', ContinuousLinearEquiv.coe_coe, Function.comp_apply, inl_apply, inr_apply,
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: Sorry that you found (seemingly) contradictory documentation. Let's discuss on zulip how to make this more clear. (I'm at a conference for the next 5 days, though - so may take a bit longer to respond.)

In the mean-time, can you un-squeeze this simp lemma, please? Thanks!

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 4]
```diff
@@ -1082,6 +1082,19 @@ alias ring_inverse_eq_map_inverse := ringInverse_eq_inverse
   rw [← ringInverse_eq_inverse]
   exact Ring.inverse_one _
 
+/-- Composition of a map on a product with the exchange of the product factors. -/
+theorem coprod_comp_prodComm
+  (R : Type*) [Semiring R]
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: If you look a few lines up, this section already defines types R, M1, M2 and M with the same typeclasses as you (on line 905). Can you re-use these, please? Most likely, that means deleting most of these hypotheses. (The variable block upstairs makes R, M, M1 and M2 implicit, while you make them explicit. In my opinion, they should be implicit anyway: the next arguments f and g are explicit, and they allow inferring M1, M2, R and M.)

**Review by grunweg — COMMENTED** [review]
One more round of comments: this is getting close!

**Comment by grunweg** [comment]
@YaelDillies I remember you wrote a guide about variable implicitness and explicitness (or perhaps only a sketch of what to put in it). This could be an occasion to polish that draft and get it on the webpage --- or to ask for help with that.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 4 above)
Comment (igorkhavkine) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: Done! Sorry, I wasn't being very careful when I introduced the extra explicits.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 3 above)
Comment (igorkhavkine) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: Done!

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 1 above)
Comment (igorkhavkine) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: Actually, removing the namespace prefix made Lean look for the non-existent ContinuousLinear**Map**.prodComm. So I put the prefix back.

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 5]
```diff
@@ -1082,6 +1082,13 @@ alias ring_inverse_eq_map_inverse := ringInverse_eq_inverse
   rw [← ringInverse_eq_inverse]
   exact Ring.inverse_one _
 
+/-- Composition of a map on a product with the exchange of the product factors. -/
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: This is not a complete sentence, hence should not end with a full stop
```suggestion
/-- Composition of a map on a product with the exchange of the product factors -/

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 6]
```diff
@@ -1082,6 +1082,13 @@ alias ring_inverse_eq_map_inverse := ringInverse_eq_inverse
...
+theorem coprod_comp_prodComm [ContinuousAdd M]
+  (f : M₂ →L[R] M) (g : M₃ →L[R] M) :
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: I think the following is slightly nicer:
```suggestion
theorem coprod_comp_prodComm [ContinuousAdd M] (f : M₂ →L[R] M) (g : M₃ →L[R] M) :

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 7]
```diff
@@ -1082,6 +1082,13 @@ alias ring_inverse_eq_map_inverse := ringInverse_eq_inverse
...
+    f.coprod g ∘L ContinuousLinearEquiv.prodComm R M₃ M₂ = g.coprod f := by
+  ext <;>
+    simp
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/Equiv.lean]: This one is subjective: up to you which one you prefer.
```suggestion
  ext <;> simp

**Review by grunweg — COMMENTED** [review]
Very last comments. Thanks for your patience!

**Comment by grunweg** [comment]
Let's ask a maintainer to take a look:
maintainer delegate

**Comment by fpvandoorn** [comment]
bors merge
